US08497380B2
2-(3,5-Dichloro-pyridin-4-yl)-1-(2,3,4-trimethoxy-phenyl)-ethanone from preparation 2 (20 g, 56 mmol) was dissolved in DCM (75 mL) under argon. BCl3 (95 mL of a 1M solution in DCM) was added slowly at room temperature for 2 hours. Water (50 mL) was added slowly followed by EtOH (200 mL). The white precipitate was filtered and re-crystallised from EtOH. 2-(3,5-Dichloro-pyridin-4-yl)-1-(2-hydroxy-3,4-dimethoxy-phenyl)-ethanone was obtained as a white solid. 1H NMR (CDCl3) δ=11.92 (1H, s), 8.54 (2H, s), 7.68 (1H, d), 6.60 (1H, d), 4.67 (2H, s), 3.98 (3H, s), 3.90 (3H, s). Yield 14.2 g (74%)

reactant | 2-(3,5-Dichloro-pyridin-4-yl)-1-(2,3,4-trimethoxy-phenyl)-ethanone | ClC=1C=NC=C(C1CC(=O)C1=C(C(=C(C=C1)OC)OC)OC)Cl | C16H15Cl2NO4
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
reactant | Water | 50 mL | O | H2O
reactant | EtOH | 200 mL | CCO | C2H6O
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,5-Dichloro-pyridin-4-yl)-1-(2-hydroxy-3,4-dimethoxy-phenyl)-ethanone | ClC=1C=NC=C(C1CC(=O)C1=C(C(=C(C=C1)OC)OC)O)Cl | C15H13Cl2NO4
